US07528164B2
2-Amino-3-cyano-4-(5-methoxy-pyridin-3-yl)-7-methyl-4H-pyrrolo[2,3-h]chromene
The title compound was prepared from 5-methoxy-pyridine-3-carbaldehyde (70 mg, 0.51 mmol), 4-hydroxy-1-methylindole (75 mg, 0.51 mmol), malononitrile (34 mg, 0.51 mmol) and piperidine (0.05 ml, 0.5 mmol) similar to Example 1e to give 21 mg (12%) of white solids. 1H NMR (CDCl3): 8.19-8.15 (m, 2H), 7.07-6.99 (m, 3H), 6.73 (d, J=8.4 Hz, 1H), 6.57 (d, J=3.0 Hz, 1H), 4.89 (s, 1H), 4.75 (brs, 2H), 3.81-3.78 (m, 6H).

reactant | 5-methoxy-pyridine-3-carbaldehyde | 0.51 mmol, 70 mg | COC=1C=C(C=NC1)C=O | C7H7NO2
reactant | 4-hydroxy-1-methylindole | 0.51 mmol, 75 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | malononitrile | 0.51 mmol, 34 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.5 mmol, 0.05 ml | N1CCCCC1 | C5H11N
product | 2-Amino-3-cyano-4-(5-methoxy-pyridin-3-yl)-7-methyl-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C=1C=NC=C(C1)OC)N(C=C3)C | C19H16N4O2
